US07544835B2
10 mg of Ethyl 3-(3-aminooxyphenyl-2-isopropoxypropionate and 7 mg of 2,4-dichlorobenzoic acid were dissolved in 0.3 ml of N,N-dimethylformamide, 0.006 ml of diethyl phosphonate cyanide and 0.05 ml of triethylamine were added, and the mixture was stirred overnight at room temperature. The reaction solution was diluted with ethyl acetate and washed with water. The organic layer was concentrated, to give ethyl 3-[3-(2,4-dichlorobenzoylaminooxy)phenyl]-2-isopropoxypropionate. This product was then dissolved in 0.4 ml of ethanol, 0.1 ml of 5N sodium hydroxide was added, and the mixture was stirred overnight at room temperature. The reaction solution was treated with 1N hydrochloric acid, extracted with ethyl acetate, and the organic layer was concentrated. The residue was purified by reverse-phase high performance liquid chromatography, to give the title compound.

reactant | 3-aminooxyphenyl-2-isopropoxypropionate | NOC=1C=C(C=CC1)C(C(=O)[O-])(C)OC(C)C
reactant | 2,4-dichlorobenzoic acid | 7 mg | ClC1=C(C(=O)O)C=CC(=C1)Cl | C7H4Cl2O2
reactant | diethyl phosphonate cyanide | 0.006 ml | [C-]#N.P(OCC)(OCC)=O
reactant | triethylamine | 0.05 ml | C(C)N(CC)CC | C6H15N
reactant | N,N-dimethylformamide | 0.3 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | ethyl 3-[3-(2,4-dichlorobenzoylaminooxy)phenyl]-2-isopropoxypropionate | ClC1=C(C(=O)NOC=2C=C(C=CC2)CC(C(=O)OCC)OC(C)C)C=CC(=C1)Cl | C21H23Cl2NO5
